US08212045B2
To a 0° C. solution of 2,6-dimethylpyridin-3-ol (10 g, 81.2 mmol) in DMF (50 ml) was added sodium hydride (60% dispersion in oil, 3.4 g, 85 mmol). After 15 minutes, 5-bromo-3-nitropicolinonitrile (18.5 g, 81 mmol) was added and the mixture was allowed to warm slowly to ambient temperature. The reaction mixture was slowly added to 500 mL of rapidly stirring water. A light red solid formed and then the material formed a gum. The gum was extracted into ethyl acetate, and the organics washed with brine, dried over MgSO4 and concentrated in vacuo to afford 5-bromo-3-(2,6-dimethylpyridin-3-yloxy)picolinonitrile (25 g, 82 mmol, 101% yield).

reactant | 2,6-dimethylpyridin-3-ol | 81.2 mmol, 10 g | CC1=NC(=CC=C1O)C | C7H9NO
reactant | sodium hydride | 85 mmol, 3.4 g | [H-].[Na+]
reactant | 5-bromo-3-nitropicolinonitrile | 81 mmol, 18.5 g | BrC=1C=C(C(=NC1)C#N)[N+](=O)[O-] | C6H2BrN3O2
reactant | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 5-bromo-3-(2,6-dimethylpyridin-3-yloxy)picolinonitrile | 82 mmol, 25 g, 101% yield | BrC=1C=C(C(=NC1)C#N)OC=1C(=NC(=CC1)C)C | C13H10BrN3O
